US09145387B2
To a solution of 4-(2-acrylamidophenylamino)-2-chloro-N-methylpyrimidine-5-carboxamide (40 mg, 0.12 mmol) in 0.08M p-TSA/1,4-dioxane (5 mL), 2-methoxy-4-morpholinoaniline (25.13 mg, 0.12 mmol) was added and heated at 100° C. for 1 h. TLC showed completion of starting material (TLC system: 5% methanol in DCM (Rf): 0.3). 1,4 dioxane was evaporated, and the residue was diluted with ethyl acetate (15 mL) and washed with water (2×5 mL). The organic layer was separated, dried over sodium sulphate, and concentrated. Crude compound was purified by column chromatography using silica gel (100-200 mesh) with 2% methanol in DCM to obtain 4-(2-acrylamidophenylamino)-2-(2-methoxy-4-morpholino phenylamino)-N-methylpyrimidine-5-carboxamide as off white solid. Yield: (8 mg, 13%). MS: m/z 504.3 (ES+, M+H).

reactant | 4-(2-acrylamidophenylamino)-2-chloro-N-methylpyrimidine-5-carboxamide | 0.12 mmol, 40 mg | C(C=C)(=O)NC1=C(C=CC=C1)NC1=NC(=NC=C1C(=O)NC)Cl | C15H14ClN5O2
reactant | 2-methoxy-4-morpholinoaniline | 0.12 mmol, 25.13 mg | COC1=C(N)C=CC(=C1)N1CCOCC1 | C11H16N2O2
reactant | methanol | CO | CH4O
solvent | p-TSA 1,4-dioxane | 0.08M, 5 mL | CC=1C=CC(=CC1)S(=O)(=O)O.O1CCOCC1
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(2-acrylamidophenylamino)-2-(2-methoxy-4-morpholino phenylamino)-N-methylpyrimidine-5-carboxamide | C(C=C)(=O)NC1=C(C=CC=C1)NC1=NC(=NC=C1C(=O)NC)NC1=C(C=C(C=C1)N1CCOCC1)OC | C26H29N7O4
